US06855710B2
b) (Z)-3-{1-[4-(3-dimethylaminopropyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone
Prepared analogously to Example 89 by reacting 3-(1-ethoxy-1-phenyl-methylidene)-5-nitro-2-indolinone with 4-(3-dimethylaminopropyl)-aniline.

reactant | 3-(1-ethoxy-1-phenyl-methylidene)-5-nitro-2-indolinone | C(C)OC(C1=CC=CC=C1)=C1C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C17H14N2O4
reactant | 4-(3-dimethylaminopropyl)-aniline | CN(CCCC1=CC=C(N)C=C1)C | C11H18N2
product | (Z)-3-{1-[4-(3-dimethylaminopropyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone | CN(CCCC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O)C | C26H26N4O3
